US07790727B2
1.3 4-(5-Amino-2-methoxy-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester
33 g of 4-(2-Methoxy-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (97.8 mmol) were dissolved in 450 mL of methanol. 3 g of 10% Pd/C were added at room temperature under nitrogen atmosphere, and the reaction mixture was hydrogenated for 4 h. The reaction mixture was filtered over Celite, the was solvent evaporated and the remaining residue was treated with 100 mL of diisopropylether. Once crystallization started, the solvent was removed under reduced pressure and the remaining product dried thoroughly. This material was used in subsequent steps without further purification.

reactant | 4-(2-Methoxy-5-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 97.8 mmol, 33 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C16H23N3O5
solvent | methanol | 450 mL | CO | CH4O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 4-(5-Amino-2-methoxy-phenyl)-piperazine-1-carboxylic Acid tert-butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC(=C1)N)OC | C16H25N3O3
